US04490292
A solution of 2H-1,4-benzothiazine-3(4H-one (2 g) and 4-chlorobenzaldehyde (2.6 g) in dimethylformamide (15 ml) was treated with sodium methylate (0.98 g). The temperature of the mixture rose spontaneously. After cooling to room temperature, the reaction mixture was stirred and heated at 110° C. with a continuous removal of a low boiling substance for 3 hours. The reaction mixture was cooled to 30° C., and poured onto 100 ml of iced water. The resulted yellow solid was filtered and recrystallized from a mixture of dimethylformamide and isopropyl alcohol. 2-(4-Chlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one (3.3 g) was obtained as yellow crystals. m.p. 245-248° C.

reactant | 2H-1,4-benzothiazine | 2 g | S1CC=NC2=C1C=CC=C2 | C8H7NS
reactant | 4-chlorobenzaldehyde | 2.6 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium methylate | 0.98 g | C[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(4-Chlorophenylmethylidene)-2H-1,4-benzothiazine-3(4H)-one | 3.3 g | ClC1=CC=C(C=C1)C=C1SC2=C(NC1=O)C=CC=C2 | C15H10ClNOS
